US05405851
To a solution of N-(9-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (1.38 g, 4.5 mmoles) in dry pyridine (10 ml) was added 4-(chlorosulfonyl)benzoic acid (5.0 g, 22.6 mmoles) at room temperature under a nitrogen atmosphere. After stirring for 3 days, the pyridine was removed under reduced pressure to leave a gummy brown residue which was suspended in water (30 ml), filtered, washed with water and dried to give 4-((N-(1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide)-9-yl)amino)sulfonyl)benzoic acid (1.65 g).

reactant | N-(9-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 4.5 mmoles, 1.38 g | NC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C17H18N4O2
reactant | 4-(chlorosulfonyl)benzoic acid | 22.6 mmoles, 5.0 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 30 ml | O | H2O
product | benzoic acid | 1.65 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
